### PR TITLE
feat: `toNat` theorems for `signExtend`

### PR DESCRIPTION
**Pull request by mhk119**

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1532,6 +1532,30 @@ theorem signExtend_eq_setWidth_of_lt (x : BitVec w) {v : Nat} (hv : v ≤ w):
 theorem signExtend_eq (x : BitVec w) : x.signExtend w = x := by
   rw [signExtend_eq_setWidth_of_lt _ (Nat.le_refl _), setWidth_eq]
 
+theorem toNat_signExtend_of_gt (x : BitVec w) {v : Nat} :
+  (x.signExtend (w + v)).toNat = x.toNat + (2 ^ (w + v)  - 2^w) * (if x.msb then 1 else 0) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:1536]: I see what we're going for here. I feel a nicer lemma, which is much easier to apply in practice, is:

```suggestion
theorem toNat_signExtend_of_gt (x : BitVec w) {v : Nat} (hv : v >= w):
  (x.signExtend v).toNat = x.toNat + (2^v - 2^w) * (if x.msb then 1 else 0) := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1532,6 +1532,30 @@ theorem signExtend_eq_setWidth_of_lt (x : BitVec w) {v : Nat} (hv : v ≤ w):
...
+  apply Nat.eq_of_testBit_eq
+  intro i
+  rw [testBit_toNat, getLsbD_signExtend, Nat.pow_add, ← Nat.mul_sub_one]
+  rw [Nat.add_comm (x.toNat), Nat.mul_assoc, Nat.testBit_mul_pow_two_add _ (x.isLt)]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:1540]:
```suggestion
  rw [testBit_toNat, getLsbD_signExtend, Nat.pow_add, ← Nat.mul_sub_one,
      Nat.add_comm (x.toNat), Nat.mul_assoc, Nat.testBit_mul_pow_two_add _ (x.isLt)]
```

golf the `rw` s :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -1532,6 +1532,30 @@ theorem signExtend_eq_setWidth_of_lt (x : BitVec w) {v : Nat} (hv : v ≤ w):
...
+
+theorem toNat_signExtend (x : BitVec w) {v : Nat} :
+  (x.signExtend v).toNat = (x.setWidth v).toNat + (2 ^ v - 2 ^ w) * (if x.msb then 1 else 0) := by
+  by_cases h : v ≤ w
+  · rw [signExtend_eq_setWidth_of_lt _ h, toNat_setWidth]
+    simp [Nat.sub_eq_zero_of_le (Nat.pow_le_pow_of_le_right Nat.two_pos h)]
+  · have ⟨k, hk⟩ := Nat.exists_eq_add_of_le (Nat.le_of_lt (Nat.lt_of_not_le h))
+    have H := Nat.pow_le_pow_of_le_right Nat.two_pos (Nat.le_add_right w k)
+    rw [hk, toNat_signExtend_of_gt, toNat_setWidth]
+    rw [Nat.mod_eq_of_lt (Nat.lt_of_lt_of_le x.isLt H)]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:1556]: LGTM, but also makes me wonder if a more efficient proof is possible (in terms of proof length) by judicious use of `omega`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -1532,6 +1532,30 @@ theorem signExtend_eq_setWidth_of_lt (x : BitVec w) {v : Nat} (hv : v ≤ w):
...
+  by_cases h : i < w
+  · simp [h, Nat.lt_add_right v h, testBit_toNat]
+  · by_cases h2 : x.msb
+    <;> by_cases h1 : i < w + v
+    <;> simp [h2, h, h1, Nat.sub_lt_left_of_lt_add (Nat.le_of_not_lt h)]
+    exact Nat.le_sub_of_add_le (Nat.add_comm _ _ ▸ (Nat.le_of_not_lt h1))
+
+theorem toNat_signExtend (x : BitVec w) {v : Nat} :
+  (x.signExtend v).toNat = (x.setWidth v).toNat + (2 ^ v - 2 ^ w) * (if x.msb then 1 else 0) := by
+  by_cases h : v ≤ w
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1550]:
```suggestion
  (x.signExtend v).toNat = (x.setWidth v).toNat + if x.msb then (2 ^ v - 2 ^ w) else 0#w := by
  by_cases h : v ≤ w
```

Would this be more readable?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:1550]: Also, why does setWidth reappear on the RHS?

Comment (mhk119) [reply src/Init/Data/BitVec/Lemmas.lean:1550]: If v < w, then signExtend is just setWidth/truncation.

Comment (mhk119) [reply src/Init/Data/BitVec/Lemmas.lean:1551]: What did we decide here?

**Comment by kim-em** [comment]
Hmm, the CODEOWNERS file seems to be pinging me for reviews to this repo.

Am I right in assuming I should ignore these until they appear on the main repo?

**Comment by tobiasgrosser** [comment]
Yes, we should probably use draft PRs here as well to avoid the pings. We are trying to first do an internal round of reviews, to maximize the quality of PRs for which we use your review bandwidth.

**Comment by bollu** [comment]
Done! This has been upstreamed
